US08283353B2
2-methyl-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl-4-(3,3,3-trifluoro-2-oxopropyl)[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of 2-methyl-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl-4-(3,3,3-trifluoro-2-hydroxypropyl) [1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one (0.41 g), Dess-Martin reagent (0.47 g) and acetonitrile (10 mL) was stirred at room temperature for 3 hr. Saturated aqueous sodium hydrogen carbonate and sodium thiosulfate-pentahydrate were added to the reaction mixture, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless amorphous solid (0.18 g, 43%).

reactant | 2-methyl-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl-4-(3,3,3-trifluoro-2-hydroxypropyl) [1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.41 g | CC1=NN2C(N(C(C(=C2CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NOC(N2)=O)=O)CC(C(F)(F)F)O)=N1 | C27H25F3N6O4
reactant | Dess-Martin reagent | 0.47 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate-pentahydrate | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-methyl-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl-4-(3,3,3-trifluoro-2-oxopropyl)[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.18 g, 43% | CC1=NN2C(N(C(C(=C2CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NOC(N2)=O)=O)CC(C(F)(F)F)=O)=N1 | C27H23F3N6O4
